US07288553B2
2-[2-(4-Cyano-phenoxy)-1-hydroxy-1-methyl-ethyl]-6-trifluoromethyl-1H-indole-5-carbonitrile (Compound #426)
To a solution of 2-(1,2-dihydroxy-1-methyl-ethyl)-6-trifluoromethyl-1-H-indole-5-carbonitrile (209.6 mg, 0.7374 mmol) in dry DMF (4 ml) was added NaH (60 mg, 1.4749 mmol, 60% in mineral oil). After the reaction mixture was stirred at room temperature for 30 min., 4-fluorobenzonitrile (98.15 mg, 0.8115 mmol) was added, and the reaction mixture stirred at room temperature. After HPLC indicated the consumption of starting material, the reaction mixture was poured onto water and extracted with ethyl acetate. The organic layer was washed with 10% LiCl, brine and dried over MgSO4. Column chromatography (EtOAc/Hexanes 50%-100%) yielded the title product as a light yellow powder.

reactant | 2-(1,2-dihydroxy-1-methyl-ethyl)-6-trifluoromethyl-1-H-indole-5-carbonitrile | 0.7374 mmol, 209.6 mg | OC(CO)(C)C=1NC2=CC(=C(C=C2C1)C#N)C(F)(F)F | C13H11F3N2O2
reactant | NaH | 1.4749 mmol, 60 mg | [H-].[Na+]
reactant | 4-fluorobenzonitrile | 0.8115 mmol, 98.15 mg | FC1=CC=C(C#N)C=C1 | C7H4FN
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
product | 2-[2-(4-Cyano-phenoxy)-1-hydroxy-1-methyl-ethyl]-6-trifluoromethyl-1H-indole-5-carbonitrile | C(#N)C1=CC=C(OCC(C)(O)C=2NC3=CC(=C(C=C3C2)C#N)C(F)(F)F)C=C1 | C20H14F3N3O2
